US07259214B2
A glass reactor was loaded inside a glove box with L(iPr2)Ni(ηl-CH2Ph)(PMe3) (about 20 μmol; 2.00 g of 8.77 mM solution in toluene), Ni(COD)2 (about 50 μmol; 2.50 g of 17.6 mM solution in toluene), 5-norbornen-2-ol (about 9.12 mmol; 3.00 g of 2.63 M solution in toluene) and toluene (about 18.45 g) such that the total volume of the toluene solution was about 30 mL. The glass reactor was sealed inside the glove box and was attached to a vacuum/nitrogen line manifold. Ethylene was fed continuously into the reactor at about 100 psi and the pressurized reaction mixture was stirred at about 20° C. Ethylene was vented after about 20 minutes and acetone was added to quench the polymerization. The precipitated polymer was collected by filtration and dried under high vacuum overnight. About 0.498 g of ethylene/5-norbornen-2-ol co-polymer was obtained. The activity of the catalyst with respect to ethylene consumption was about 86 kg mol−1 h−1.

reactant | 5-norbornen-2-ol | about 9.12 mmol, 2.63 M, 3.00 g | C12C(CC(C=C1)C2)O | C7H10O
reactant | toluene | about 18.45 g | C1(=CC=CC=C1)C | C7H8
reactant | Ethylene | C=C | C2H4
catalyst | Ni(COD)2 | about 50 μmol, 17.6 mM, 2.50 g | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Ni]
solvent | acetone | CC(=O)C | C3H6O
product | ethylene 5-norbornen-2-ol | 0.498 g | C=C.C12C(CC(C=C1)C2)O | InChI=1S/C7H10O.C2H4/c8-7-4-5-1-2-6(7)3-5;1-2/h1-2,5-8H,3-4H2;1-2H2
